US03976635
A mixture of diethyl 2-hydroxyiminomalonate (18.9 g), water (50 ml) and acetone (8 ml) is cooled at 0°C, and ethyl chloroformate (9.8 g) is dropwise added thereto. The resulting mixture is, after adjusted to pH 7 to 8 with the addition of an aqueous solution of sodium hydrogencarbonate, stirred at room temperature for 4 hours. The reaction mixture is extracted with ether, and the ether layer is washed with an aqueous solution of sodium chloride, dried and concentrated to give diethyl 2-ethoxycarbonyloxyiminomalonate (24 g) as an oil.

reactant | diethyl 2-hydroxyiminomalonate | 18.9 g | ON=C(C(=O)OCC)C(=O)OCC | C7H11NO5
reactant | water | 50 ml | O | H2O
reactant | ethyl chloroformate | 9.8 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 8 ml | CC(=O)C | C3H6O
product | diethyl 2-ethoxycarbonyloxyiminomalonate | 24 g | C(C)OC(=O)ON=C(C(=O)OCC)C(=O)OCC | C10H15NO7
